US07772245B2
A mixture of methyl-6-chloronicotinate (170 mg), 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline (205 mg), potassium carbonate (150 mg) and dioxane (5 mL) was heated in a 100° C. oil bath overnight. An additional aliquote of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline (100 mg) was added and heating was continued for five hours. The reaction was partitioned between water and EtOAc. The organics were washed with water, dried, and the solvent evaporated. The residue was purified by flash chromatography eluting with EtOAc to give methyl 6-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)nicotinate as a white solid (180 mg), m/e=329 (M+1).

reactant | methyl-6-chloronicotinate | 170 mg | COC(C1=CN=C(C=C1)Cl)=O | C7H6ClNO2
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 205 mg | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
reactant | potassium carbonate | 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 100 mg | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | methyl 6-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)nicotinate | 180 mg | COC=1C=C2CCN(CC2=CC1OC)C1=NC=C(C(=O)OC)C=C1 | C18H20N2O4
